US06225305B1
b. N2-(tert-butoxycarbonyl)-N6-(iminomethoxymethyl)-L-lysine tert-butyl ester hydrochloride
From 1.6 g (4.89 mmol) N2-(tert-butoxycarbonyl)-N6-(cyano)-L-lysine tert-butyl ester was prepared 1.5 g (75%) of foamy solid N2-(tert-butoxycarbonyl)-N6-(ethoxyiminomethyl)-L-lysine tert-butyl ester hydrochloride by the method described for N2-(tert-butoxycarbonyl)-N5-(iminomethoxymethyl)-L-ornithine tert-butyl ester hydrochloride. TLC (methanol:dichloromethane/1:9) Rf=0.36. Mass spectrum (CI) 360 (MH+, 60%).

reactant | N2-(tert-butoxycarbonyl)-N6-(cyano)-L-lysine tert-butyl ester | 4.89 mmol, 1.6 g | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCCNC#N)=O | C16H29N3O4
reactant | N2-(tert-butoxycarbonyl)-N6-(ethoxyiminomethyl)-L-lysine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCCNC=NOCC)=O
reactant | N2-(tert-butoxycarbonyl)-N5-(iminomethoxymethyl)-L-ornithine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCNCOC=N)=O
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N2-(tert-butoxycarbonyl)-N6-(iminomethoxymethyl)-L-lysine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCCNCOC=N)=O | InChI=1S/C17H33N3O5.ClH/c1-16(2,3)24-14(21)13(20-15(22)25-17(4,5)6)9-7-8-10-19-12-23-11-18;/h11,13,18-19H,7-10,12H2,1-6H3,(H,20,22);1H/t13-;/m0./s1
